US09034866B2
Synthesis of 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
Di-tert-butyl azodicarboxylate (470 mg, 1.79 mmol, 1.50 equiv) in tetrahydrofuran (2 mL) was added dropwise to a stirred solution of (10-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-3-yl)methanol (500 mg, 1.19 mmol, 1.00 equiv)), 2-methyl-1H-imidazole (200 mg, 2.44 mmol, 2.00 equiv), and triphenylphosphine (400 mg, 1.74 mmol, 1.50 equiv) in tetrahydrofuran (3 mL) at 0° C. under nitrogen. The resulting solution was stirred for 3 h at room temperature and concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane/methanol (10:1). This resulted in 260 mg (45%) of 10-bromo-2-iodo-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepineas as a colorless solid. This intermediate was converted to 10-bromo-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide similar to as described in Example 10 (carbonylative amidation). Similar to as described in General Procedure G, 10-bromo-3((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 2-methylbut-3-yn-2-ol to give the titled compound as a colorless solid (2 mg, 2%).

reactant | Di-tert-butyl azodicarboxylate | 1.79 mmol, 470 mg, 1.50 equiv | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | (10-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-3-yl)methanol | 1.19 mmol, 500 mg, 1.00 equiv | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)I)CO)C1 | C12H10BrIN2O2
reactant | 2-methyl-1H-imidazole | 2.44 mmol, 200 mg, 2.00 equiv | CC=1NC=CN1 | C4H6N2
reactant | triphenylphosphine | 1.74 mmol, 400 mg, 1.50 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 10-bromo-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC=C3)C)C1 | C17H16BrN5O2
reactant | 2-methylbut-3-yn-2-ol | CC(C)(C#C)O | C5H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 10-(3-hydroxy-3-methylbut-1-yn-1-yl)-3-((2-methyl-1H-imidazol-1-yl)methyl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 2 mg, 2% | OC(C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)CN3C(=NC=C3)C)C1)(C)C | C22H23N5O3
